US08017611B2
3-(1,3-benzoxazol-2-yl)-5-[1-(2-tert-butoxyethyl)pyrazol-4-yl]pyridin-2-amine (485 mg) was dissolved in TFA (3 ml). The resulting solution was stirred at 25° C. for 1 hour. A solution 7N of ammonia in methanol (20 ml) was added to the mixture and adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 1 to 5% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford 2-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]ethanol (315 mg). NMR Spectrum: (DMSOd6) 3.75-3.81 (m, 2H), 4.17 (t, 2H), 4.94 (t, 1H), 7.40-7.49 (m, 2H), 7.64 (bs, 2H), 7.79-7.82 (m, 1H), 7.83-7.86 (m, 1H), 7.92 (s, 1H), 8.21 (s, 1H), 8.41 (d, 1H), 8.52 (d, 1H); Mass spectrum: M+H+ 322.

reactant | 3-(1,3-benzoxazol-2-yl)-5-[1-(2-tert-butoxyethyl)pyrazol-4-yl]pyridin-2-amine | 485 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)CCOC(C)(C)C)N | C21H23N5O2
reactant | ammonia | 7N | N | H3N
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 20 ml | CO | CH4O
product | 2-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]ethanol | 315 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)CCO)C=1OC2=C(N1)C=CC=C2 | C17H15N5O2
